US06043254
(c) 4-(4-nitro-benzyl)-1H-imidazole
Prepared according to Arch. Pharm. 1975, 308, 755-759 by reacting 4-benzyl-1H-imidazole in fuming 100% nitric acid at -10 to -5° C. (30 minutes).

reactant | 4-benzyl-1H-imidazole | C(C1=CC=CC=C1)C=1N=CNC1 | C10H10N2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
product | 4-(4-nitro-benzyl)-1H-imidazole | [N+](=O)([O-])C1=CC=C(CC=2N=CNC2)C=C1 | C10H9N3O2
